US07732438B2
4,4,4-Trifluoro-2-hydroxybutan-1-aminium chloride
2-(2,2,2-Trifluoroethyl)oxirane (5.27 g, 41.8 mmol) was added to a solution of ammonia (2 M in methanol; 170 mL, 340 mmol) and the solution heated to 60° C. After 1.25 h, the mixture was allowed to cool to ambient temperature and concentrated to a volume of 20 mL. HCl (4 M in dioxane; 12 mL, 48 mmol) was added slowly and the mixture concentrated to give a white solid (4.0 g) that was 85% pure and contained 15% of a dimeric byproduct. MS 144.1 (M+H). 1H NMR (500 MHz, CD3OD) δ 4.17-4.12 (m, 1H), 3.10 (dd, J=12.9, 2.9 Hz, 1H), 2.89 (dd, J=12.7, 9.8 Hz, 1H), 2.50, 2.35 (m, 2H).

reactant | 2-(2,2,2-Trifluoroethyl)oxirane | 41.8 mmol, 5.27 g | FC(CC1OC1)(F)F | C4H5F3O
reactant | ammonia | 340 mmol, 2 M, 170 mL | N | H3N
reactant | HCl | 48 mmol, 4 M, 12 mL | Cl | ClH
product | 4,4,4-Trifluoro-2-hydroxybutan-1-aminium chloride | 4.0 g | [Cl-].FC(CC(C[NH3+])O)(F)F | InChI=1S/C4H8F3NO.ClH/c5-4(6,7)1-3(9)2-8;/h3,9H,1-2,8H2;1H
